US09399640B2
Step 1. 6-Bromo-4-methyl-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one
This compound was synthesized according to the procedure of Example 83, Step 1, using 6-bromo-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one and methyl iodide as the starting materials. LCMS calculated for C18H13BrNO3 (M+H)+: m/z=334.0, 336.0. found: 333.9, 335.9.

reactant | 6-bromo-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one | BrC=1C=CC2=C(NC(CO2)=O)C1OC1=CC=CC=C1 | C14H10BrNO3
reactant | methyl iodide | CI | CH3I
product | 6-Bromo-4-methyl-5-phenoxy-2H-1,4-benzoxazin-3(4H)-one | BrC=1C=CC2=C(N(C(CO2)=O)C)C1OC1=CC=CC=C1 | C15H12BrNO3
